US06121274
A1: 2,3-Dihydro-2,2-dimethyl-7-methoxybenzofuran-4-carbonyl chloride
0.8 g of 2,3-dihydro-2,2-dimethyl-7-methoxybenzofuran-4-carboxylic acid is heated to boiling under reflux for 1 h in a mixture of 50 ml of abs. toluene and 3 ml of thionyl chloride. The solvent is distilled off in a rotary evaporator and toluene (about 30 ml) is then added a further 2 times and the mixture is concentrated again. The residue is dried in a high vacuum and employed in Example 1 without further purification.

reactant | 2,3-dihydro-2,2-dimethyl-7-methoxybenzofuran-4-carboxylic acid | 0.8 g | CC1(OC=2C(C1)=C(C=CC2OC)C(=O)O)C | C12H14O4
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,3-Dihydro-2,2-dimethyl-7-methoxybenzofuran-4-carbonyl chloride | CC1(OC=2C(C1)=C(C=CC2OC)C(=O)Cl)C | C12H13ClO3
